US05496826
N-[2-(benzoxazol-2-yl)phenyl] acetamide
The compound was prepared in a multistep synthesis employing Scheme 3, as described: A suspension of 2-aminophenol (5.0 g, 45.81 mmol) and 2-nitrobenzaldehyde (6.92 g, 45.81 mmol) in cyclohexane (200 mL) was heated to reflux using a Dean-Stark apparatus to remove water for 5 h. The reaction mixture was concentrated in vacuo to yield bright yellow crystals of the corresponding imine (10.71 g, 97% yield). To a solution of this imine (7.88 g, 32.56 mmol) in CH2Cl2 (200 mL) was added Ag2O (9.05 g, 39.07 mmol) and the reaction mixture was allowed to stir at RT overnight. The solvent was removed in vacuo to yield a solid shown to be the 2-(2-nitrophenyl) benzoxazole. This product was then suspended in ethanol (200 mL) with PtO2 (0.3 g) and charged with H2 (60 psi). The reaction mixture was allowed to shake on a Parr apparatus for 3 h. This was filtered through celite and the filtrate was removed in vacuo to yield a yellow solid. 1H NMR showed this to be the desired 2-(2-aminophenyl) benzoxazole, 3.85 g. This was acetylated according to General Procedure A and purified by recrystallization from cyclohexane/ethyl acetate, m.p. 125°-128° C.; 1H NMR (300 MHz, DMSO-d6) δ11.48 (s, 1H), 8.54 (d, J=9 Hz, 1H), 8.13 (dd, J=1.5, 9 Hz, 1H), 7.80-7.75 (m, 2H), 7.57 (m, 1H), 7.45 (m, 2H), 7.25 (t, J=9 Hz, 1H), 2.23 (s, 3H); 13C NMR (75 MHz, DMSO-d6) δ5 168.79, 161.46, 148.92, 140.39, 138.59, 132.89, 128.62, 126.18, 125.28, 123.37, 120.29, 119.83, 113.05, 111.07, 25.15; IR (KBr) 3270, 1685, 1540, 1240, 750 cm-1 ; MS (DCI) m/e MH+ =253; Analysis calc' d for C15H12N2O2 : C, 71.42; H, 4.79; N, 11.10; found: C, 71.24; H, 5.14;N, 10.76.

reactant | 2-(2-nitrophenyl) benzoxazole | [N+](=O)([O-])C1=C(C=CC=C1)C=1OC2=C(N1)C=CC=C2 | C13H8N2O3
reactant | 2-(2-aminophenyl) benzoxazole | NC1=C(C=CC=C1)C=1OC2=C(N1)C=CC=C2 | C13H10N2O
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | PtO2 | 0.3 g | O=[Pt]=O
product | N-[2-(benzoxazol-2-yl)phenyl] acetamide | O1C(=NC2=C1C=CC=C2)C2=C(C=CC=C2)NC(C)=O | C15H12N2O2
